US04367234
5-(3-Fluorophenyl)oxazolidine-2,4-dione
By the procedure of Example 3, except that a reaction time of 16 hours at room temperature was employed following the cold perfusion with phosgene and the product was extracted into methylene chloride following quench over crushed ice, ethyl 1-(3-fluorophenyl)-1-hydroxymethanecarboximidate hydrochloride (16 g., 0.068 mole) was converted to toluene recrystallized 5-(3-fluorophenyl)oxazolidine-2,4-dione (7.51 g., 56%; m.p. 147°-149° C.).

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | ethyl 1-(3-fluorophenyl)-1-hydroxymethanecarboximidate hydrochloride | 0.068 mole, 16 g | Cl.FC=1C=C(C=CC1)C(C(OCC)=N)O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-(3-Fluorophenyl)oxazolidine-2,4-dione | FC=1C=C(C=CC1)C1C(NC(O1)=O)=O | C9H6FNO3
